US04560692
(b) 1-[2-(4-chlorophenyl)-6-methyl-4-quinolinyl]-4-piperidinecarboxamide
A mixture of 10 g (35 mmol) of 4-chloro-2-(4-chlorophenyl)-6-methylquinoline, 8.9 g (70 mmol) of isonipecotamide, and 20 g of phenol was stirred and heated in an oil bath at 165°-170° for 3.5 hr. It was then cooled and diluted with water. Crystallization was induced by the addition of ethanol and scratching. The solid was collected and washed with ether to give 11.9 g of crude product. Recrystallization from pyridine gave the named compound as off-white prisms, mp 261°-265° dec.

reactant | 4-chloro-2-(4-chlorophenyl)-6-methylquinoline | 35 mmol, 10 g | ClC1=CC(=NC2=CC=C(C=C12)C)C1=CC=C(C=C1)Cl | C16H11Cl2N
reactant | isonipecotamide | 70 mmol, 8.9 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | phenol | 20 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | 1-[2-(4-chlorophenyl)-6-methyl-4-quinolinyl]-4-piperidinecarboxamide | ClC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)N1CCC(CC1)C(=O)N)C | C22H22ClN3O
